US04282031
2-Benzyl-4-phenyl-3-thiosemicarbazide
Benzylhydrazine (30 g, 0.0245 mole) was dissolved in 200 ml of isopropanol and cooled to 0°-5° C. Phenyl isothiocyanate (33.1 g, 0.0245 mole) was then added dropwise in 50 ml of petroleum ether. The title compound precipitated from solution during this phase of the operation. After addition, the reaction mixture was stirred at 40°-45° C. for one hour. The title product was filtered off as a white solid, m.p. 121°-3° C., yield 43 g.

reactant | Benzylhydrazine | 0.0245 mole, 30 g | C(C1=CC=CC=C1)NN | C7H10N2
reactant | Phenyl isothiocyanate | 0.0245 mole, 33.1 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 2-Benzyl-4-phenyl-3-thiosemicarbazide | C(C1=CC=CC=C1)N(N)C(=S)NC1=CC=CC=C1 | C14H15N3S
